US07906511B2
2-Amino-4-methoxycarbonylpyrimidine (Reference Compound No. 3-1)
Triethylamine (29 mL, 210 mmol) was added to a suspension of methyl 4-butoxy-2-oxo-3-butenate (37 g, 200 mmol, JP-A-2003-89690) and guanidine hydrochloride (23 g, 240 mmol) in propionitrile (50 mL), and the mixture was stirred for 4 hours at 100° C. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography to give 18 g as the mixture of the title Reference Compound and the butyl ester form of the title Reference compound as a gray-white solid (Yield: 60%).

reactant | Triethylamine | 210 mmol, 29 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 4-butoxy-2-oxo-3-butenate | 200 mmol, 37 g | C(CCC)OC=CC(C(=O)OC)=O | C9H14O4
reactant | guanidine hydrochloride | 240 mmol, 23 g | Cl.NC(=N)N
solvent | propionitrile | 50 mL | C(CC)#N | C3H5N
product | 2-Amino-4-methoxycarbonylpyrimidine | Yield: 60% | NC1=NC=CC(=N1)C(=O)OC | C6H7N3O2
